US03941826
4-Cyano-2,5-diisopropylphenyl methyl sulfide was prepared as follows: A mixture of 20.4 g of 4-bromo-2,5-diisopropylphenyl methyl sulfide prepared as in Example 1C and 8.9 g of cuprous cyanide was heated at reflux in 100 ml of N-methylpyrrolidone under nitrogen for 2 hours. After cooling to ambient temperature, the reaction mixture was poured into a mixture of 200 ml of water and 100 ml of concentrated aqueous ammonia. The product was filtered and extracted into ether. The extract was washed with 5% HCl followed by a saturated solution of sodium chloride. The organic layer was dried over sodium sulfate and the solvent removed to give 15.5 g of 4-cyano-2,5-diisopropyl methyl sulfide which was recrystallized from n-hexane giving pure product having a melting point of 72°-75°C.

reactant | 4-bromo-2,5-diisopropylphenyl methyl sulfide | 20.4 g | CSC1=C(C=C(C(=C1)C(C)C)Br)C(C)C | C13H19BrS
reactant | water | 200 ml | O | H2O
reactant | ammonia | 100 ml | N | H3N
reactant | N-methylpyrrolidone | 100 ml | CN1C(CCC1)=O | C5H9NO
product | 4-Cyano-2,5-diisopropylphenyl methyl sulfide | CSC1=C(C=C(C(=C1)C(C)C)C#N)C(C)C | C14H19NS
